US04920131
A mixture of ethyl 2-(3-(2-(3-hydroxyphenyl)2-oxoethyl)phenoxy)acetate (0.01 mol), 2-chloromethylquinoline (0.01 mol), and K2CO3 (0.01 mol) in 20 mL of DMF are heated at 60° C. overnight. After work-up, the crude product is purified by flash chromatography to give ethyl 2-(3-(2-(3-(2-quinolinylmethyloxy)phenyl)-2-oxoethyl)phenoxy)acetate.

reactant | ethyl 2-(3-(2-(3-hydroxyphenyl)2-oxoethyl)phenoxy)acetate | 0.01 mol | OC=1C=C(C=CC1)C(CC=1C=C(OCC(=O)OCC)C=CC1)=O | C18H18O5
reactant | 2-chloromethylquinoline | 0.01 mol | ClCC1=NC2=CC=CC=C2C=C1 | C10H8ClN
reactant | K2CO3 | 0.01 mol | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | ethyl 2-(3-(2-(3-(2-quinolinylmethyloxy)phenyl)-2-oxoethyl)phenoxy)acetate | N1=C(C=CC2=CC=CC=C12)COC=1C=C(C=CC1)C(CC=1C=C(OCC(=O)OCC)C=CC1)=O | C28H25NO5
